US07320993B1
4-(4,5-diphenylimidazol-1-yl)-butylamine
Batch size: 14.0 g (33.2 mmol) 2-[4-(4,5-diphenyl-imidazol-1-yl)-butyl]-isoindol-1,3-dione and 3.3 ml (66.4 mmol) hydrazine hydrate in 130 ml ethanol.

reactant | 2-[4-(4,5-diphenyl-imidazol-1-yl)-butyl]-isoindol-1,3-dione | 33.2 mmol, 14.0 g | C1(=CC=CC=C1)C=1N=CN(C1C1=CC=CC=C1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C27H23N3O2
reactant | hydrazine hydrate | 66.4 mmol, 3.3 ml | O.NN
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 4-(4,5-diphenylimidazol-1-yl)-butylamine | C1(=CC=CC=C1)C=1N=CN(C1C1=CC=CC=C1)CCCCN | C19H21N3
